US05292901
[{2-(1,3-Benzodioxol-5-yl)ethyl}sulfinyl]propan-2-one
4 g of [{2-(1,3-benzodioxol-5-yl)ethyl}thio]-propan-2-one was dissolved in 70 ml of chloroform. 3.2 g of 90% m-chloroperbenzoic acid was added to the solution under cooling with ice/water. The mixture was stirred for 40 min. 150 ml of chloroform and an aqueous sodium carbonate solution were added to the reaction mixture. After separation of the layers thus formed, the chloroform layer was washed with water three times and dried over anhydrous sodium sulfate. The solvent was distilled off and the residue was recrystallized from isopropyl ether to obtain 3.5 g of the intended compound in the form of colorless crystals.

reactant | [{2-(1,3-benzodioxol-5-yl)ethyl}thio]-propan-2-one | 4 g | O1COC2=C1C=CC(=C2)CCSCC(C)=O | C12H14O3S
reactant | m-chloroperbenzoic acid | 3.2 g | ClC1=CC(=CC=C1)C(=O)OO | C7H5ClO3
reactant | sodium carbonate | C([O-])([O-])=O.[Na+].[Na+]
solvent | chloroform | 70 ml | C(Cl)(Cl)Cl | CHCl3
solvent | chloroform | 150 ml | C(Cl)(Cl)Cl | CHCl3
product | [{2-(1,3-Benzodioxol-5-yl)ethyl}sulfinyl]propan-2-one | 3.5 g | O1COC2=C1C=CC(=C2)CCS(=O)CC(C)=O | C12H14O4S
